
//include "/home/shunqidai/Sizing/SizingDemoLinuxSpectre_integer_stdcell/smic018/models/spectre/ms018_v1p7_spe.lib" section=tt

// *LEVEL SHIFTER
parameters vddl=1.2 vddh=3.3 cload=100f

subckt level_shifter ddh ddl gnd in out
	MP1  (an in   ddl  ddl) p12 w=w1 	l=l1
	MN1  (an in   gnd  gnd) n12 w=w2 	l=l2


	MP2  (qn q   ddh  ddh) p33  w=w3 	l=l3
	MP3  (q  qn  ddh  ddh) p33  w=w3 	l=l3 
	MN2  (qn in  gnd  gnd ) n33 w=w4 	l=l4
	MN3  (q  an  gnd  gnd ) n33 w=w4        l=l4
	
	MP4  (out qn  ddh  ddh)  p33 w=w5 	l=l5 
	MN4  (out qn  gnd  gnd)  n33 w=w6 	l=l6

ends level_shifter 
