
include "/home/shunqidai/Sizing/SizingDemoLinuxSpectre/smic018/models/spectre/ms018_v1p7_spe.lib" section=tt

subckt diff_opamp dd gnd inp inn net7 out
	M1  (net2 inp  net1 dd)   p33 W=w1 L=l1
	M2  (net3 inn  net1 dd)   p33 W=w1 L=l1
	M3  (net1 net7 dd   dd)   p33 W=w2 L=l2 
	M4  (net7 net7 dd   dd)   p33 W=w2 L=l2  
	M5  (net2 net4 gnd  gnd)  n33 W=w3 L=l3 
	M6  (net3 net4 gnd  gnd)  n33 W=w3 L=l3 
	M7  (net6 net5 net2 gnd)  n33 W=w4 L=l4 
	M8  (out  net5 net3 gnd)  n33 W=w4 L=l4 
	M9  (net6 net6 net8 dd)   p33 W=w5 L=l5 
	M10 (out  net6 net9 dd)   p33 W=w5 L=l5 
	M11 (net8 net8 dd   dd)   p33 W=w6 L=l6 
	M12 (net9 net8 dd   dd)   p33 W=w6 L=l6 
	
	vb1    (net4 gnd)   vsource  dc=0.9     type=dc
	vb2    (net5 gnd)   vsource  dc=1.1     type=dc
subckt diff_opamp
